US05703052
(3β,5α,25R)-3-ethoxymethoxy-spirostan-6-one
Pyridinium chlorochromate (1.98 g, 9.20 mmol) was added to a mixture of (3β,5α,6α,25R)-3-ethoxy methoxy-6-hydroxyspirostane (0.90 g, 1.8 mmol) and celite (8.0 g) in anhydrous dichloremethane at 0° C. The reaction mixture was gradually warmed to ambient temperature over 1 hour and allowed to stir for an additional 5 hours. The reaction mixture was then filtered through a plug of silica gel using ether as the eluent. The combined ether fractions were concentrated in vacuo to afford 0.80 g (91%) of the title compound as a colorless solid.

reactant | Pyridinium chlorochromate | 9.20 mmol, 1.98 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | (3β,5α,6α,25R)-3-ethoxy methoxy-6-hydroxyspirostane | 1.8 mmol, 0.90 g | C(C)OCO[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C30H50O5
product | (3β,5α,25R)-3-ethoxymethoxy-spirostan-6-one | 0.80 g, 91% | C(C)OCO[C@@H]1C[C@@H]2C(C[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C30H48O5
